US08536179B2
To a dried 500 mL Parr bottle equipped with nitrogen inlet were added sodium acetate (1.502 g, 18.30 mmol), 10% palladium on carbon (1.579 g, 0.742 mmol), platinum(IV) oxide (0.011 g, 0.049 mmol) and a small amount of acetic acid to wet the catalysts, under nitrogen stream. Next was added 2-hydroxy-6-methyl-4-(trifluoromethyl)-3-pyridinecarbonitrile (2.0 g, 9.89 mmol) followed by acetic acid (175 mL) while under nitrogen atmosphere. The contents were sealed, placed on a Parr shaker, and reacted at 40 psi of H2 for ca. 6 hr, keeping the H2 psi between 20 and 40 psi (vessel was refilled twice). The vessel was purged with nitrogen and the reaction mixture filtered through Celite, and the filter pad was further washed with a small amount of acetic acid. The volatiles were removed in vacuo to afford a residue, which was dried under high vacuum for 45 min. The solid was suspended in conc. HCl (12 mL), stirred, and filtered. The clear filtrate was concentrated in vacuo and the residue dried under high vacuum. The collected solid was suspended in conc. HCl (2 mL) and diluted with EtOH (13 mL). The contents were agitated and stored at ca. 0° C. (freezer) for 30 min to give a white solid. The solid was filtered and washed with cold ethanol (5 mL). The solid was filtered and dried in vacuum oven for 1 h to give 3-(aminomethyl)-6-methyl-4-(trifluoromethyl)-2(1H)-pyridinone (0.95 g, 40%). LCMS E-S (M+H)=206.9. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.31 (s, 3H), 3.40-3.62 (m, 2H), 3.87 (d, J=5.05 Hz, 2H), 8.12-8.37 (m, 3H).

reactant | sodium acetate | 18.30 mmol, 1.502 g | C(C)(=O)[O-].[Na+]
reactant | 2-hydroxy-6-methyl-4-(trifluoromethyl)-3-pyridinecarbonitrile | 9.89 mmol, 2.0 g | OC1=NC(=CC(=C1C#N)C(F)(F)F)C | C8H5F3N2O
catalyst | palladium on carbon | 0.742 mmol, 1.579 g | [Pd] | Pd
catalyst | platinum(IV) oxide | 0.049 mmol, 0.011 g | [Pt](=O)=O
solvent | acetic acid | 175 mL | C(C)(=O)O | C2H4O2
product | 3-(aminomethyl)-6-methyl-4-(trifluoromethyl)-2(1H)-pyridinone | 0.95 g, 40% | NCC=1C(NC(=CC1C(F)(F)F)C)=O | C8H9F3N2O
